US08372823B2
Methyl 6-(2-(3-(4′-formylbiphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate (31 mg, 0.070 mmol) and morpholine (0.012 mL, 1.4 mmol) were dissolved in dichloroethane (2 mL) and NaBH(OAc)3 (31 mg, 15 mmol) was added. The reaction solution was stirred under an atmosphere of Ar at ambient temperature for 7 h and then quenched with saturated aqueous NaHCO3. The crude product was extracted with EtOAc and the solvent was removed in vacuo. The crude product was purified by flash chromatography (SiO2, 50-100% EtOAc/hexanes) to furnish methyl 6-(2-(3-(4′-(morpholinomethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate as a light yellow oil (21 mg, 58%): 1H NMR (CDCl3, 600 MHz) δ 8.12 (d, 1H, J=7.7 Hz), 8.04-8.02 (m, 2H), 7.97 (t, 1H, J=7.8 Hz), 7.52 (d, 4H, J=8.0 Hz), 7.38 (d, 2H, J=8.0 Hz), 7.34 (d, 2H, J=8.0 Hz), 4.04 (s, 3H), 3.73 (t, 4H, J=4.5 Hz), 3.54 (s, 2H), 3.51 (t, 2H, J=7.6 Hz), 3.16 (t, 2H, J=7.6 Hz), 2.48 (s, 4H); 13C NMR (CDCl3, 150 MHz) δ 187.3, 165.1, 157.4, 152.4, 148.5, 146.5, 139.8, 139.3, 139.0, 138.2, 136.7, 129.6, 128.9, 128.0, 127.1, 126.8, 125.2, 123.3, 67.0, 63.1, 53.6, 53.1, 40.6, 29.3; HR ESI-TOF m/z 512.2173 (M+H+, C30H29N3O5, requires 512.2180).

reactant | Methyl 6-(2-(3-(4′-formylbiphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 0.070 mmol, 31 mg | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C26H20N2O5
reactant | morpholine | 1.4 mmol, 0.012 mL | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 15 mmol, 31 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | methyl 6-(2-(3-(4′-(morpholinomethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 21 mg, 58% | O1CCN(CC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C30H29N3O5
